US07534797B2
trans-Methyl 4-(8-chloroimidazo[1,5-a]pyrazin-3-yl)cyclohexanecarboxylate
trans-Methyl 4-({[(3-chloropyrazin-2-yl)methyl]amino}carbonyl)-cyclohexanecarboxylate (29.00 g, 93.02 mmol) was dissolved in anhydrous acetonitrile (930 mL) and anhydrous DMF (9 mL) and heated at 55° C. under nitrogen for 3 h. The reaction mixture was concentrated in vacuo, then, the solid residue was taken up in DCM, then, basified to pH 10 with 2M ammonia in isopropanol. The mixture was concentrated in vacuo, re-dissolved in DCM, then, loaded onto TEA-basified silica gel. The crude product was purified by a silica gel column chromatography (eluted with 2:3 EtOAc/DCM) to obtain the title compound as a yellow powder; 1H NMR (CDCl3, 400 MHz) δ 1.63 (ddd, J=13.2, 13.2, 13.2, 3.2 Hz, 2H), 1.85 (ddd, J=13.2, 13.2, 13.2, 2.8 Hz, 2H), 2.10 (dd, J=14.4, 3.2 Hz, 2H), 2.19 (dd, J=14.0, 3.2 Hz, 2H), 2.46 (tt, J=12.4, 3.6 Hz, 1H), 2.96 (tt, J=11.6, 3.2 Hz, 1H), 3.70 (s, 3H), 7.33 (dd, J=5.2, 1.2 Hz, 1H), 7.61 (d, J=4.8 Hz, 1H), 7.79 (s, 1H). MS (ES+): m/z 294.17/296.14 (100/86) [MH+]. HPLC: tR=2.85 min (OpenLynx, polar—5 min).

reactant | trans-Methyl 4-({[(3-chloropyrazin-2-yl)methyl]amino}carbonyl)-cyclohexanecarboxylate | 93.02 mmol, 29.00 g | ClC=1C(=NC=CN1)CNC(=O)[C@@H]1CC[C@H](CC1)C(=O)OC | C14H18ClN3O3
reactant | DMF | 9 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile | 930 mL | C(C)#N | C2H3N
product | trans-Methyl 4-(8-chloroimidazo[1,5-a]pyrazin-3-yl)cyclohexanecarboxylate | ClC=1C=2N(C=CN1)C(=NC2)[C@@H]2CC[C@H](CC2)C(=O)OC | C14H16ClN3O2
